US04017492
7-Chloro-2-[[1-(methoxycarbonyl)methylene]-hydrazino]-5-phenyl-3H-1,4-benzodiazepine
To a stirred suspension of 6.29 g. (0.017 mole) 7-chloro-2-[[1-carboxymethylene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine, methanol solvate, in 300 ml. of methylene chloride is slowly added an ethereal solution of diazomethane (9.27 ml., 0.22 mole) under nitrogen, at ambient temperature. After an hour, the solvent is removed in vacuo and the residue is recrystallized from ethyl acetate to give 3.20 g. of 7-chloro-2-[[1-(methoxycarbonyl)methylene]hydrazino]-5-phenyl-3H-1,4benzodizepine. The analytical sample is recrystallized from ethyl acetate-hexane.

reactant | 7-chloro-2-[[1-carboxymethylene)hydrazino]-5-phenyl-3H-1,4-benzodiazepine | 0.017 mole | ClC=1C=CC2=C(C(=NCC(=N2)NN=CC(=O)O)C2=CC=CC=C2)C1 | C17H13ClN4O2
reactant | methanol | CO | CH4O
reactant | diazomethane | 0.22 mole, 9.27 ml | [N+](=[N-])=C | CH2N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-Chloro-2-[[1-(methoxycarbonyl)methylene]-hydrazino]-5-phenyl-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NN=CC(=O)OC)C2=CC=CC=C2)C1 | C18H15ClN4O2
